US07501413B2
Step 3: (1RS, 5SR, 6R)-3-(4-chloro-phenyl)-2,4-dioxo-3-aza-bicyclo[3.1.0]hexane-6-carboxylic acid ethyl ester
A solution of 19.4 g (93 mmol) of 1-(4-chloro-phenyl)-pyrrole-2,5-dione in 120 ml of xylene was treated with 19.4 ml (187 mmol) of ethyldiazoacetate and refluxed during 12 hrs. Evaporation of the solvent and chromatography on silica gel with toluene and then a gradient of toluene/AcOEt from 95:5 to 90:10 gave 9.5 g(35%) of the title compound. Off white solid. MS: 294 (M+H)+.

reactant | 1-(4-chloro-phenyl)-pyrrole-2,5-dione | 93 mmol, 19.4 g | ClC1=CC=C(C=C1)N1C(C=CC1=O)=O | C10H6ClNO2
reactant | ethyldiazoacetate | 187 mmol, 19.4 ml | C(C)OC(C=[N+]=[N-])=O | C4H6N2O2
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(4-chloro-phenyl)-2,4-dioxo-3-aza-bicyclo[3.1.0]hexane-6-carboxylic acid ethyl ester | 9.5 g, 35% | C(C)OC(=O)C1C2C(N(C(C12)=O)C1=CC=C(C=C1)Cl)=O | C14H12ClNO4
